US06509345B2
Step 1: Methyl 2-(2-Fluoro-3-methyl-4-pyridinyl)-2-hydroxybutanoate
6.9 ml (11 mmol) of 1.6M butyllithium in hexane are added dropwise to a solution, stirred at −78° C. of 2.6 g (11 mmol) of 2-fluoro-4-iodo-3-methylpyridine (described in J.O.C., 1993, 58, pp.7832) in 100 ml of THF. The reaction mixture is then stirred for 10 minutes at −78° C. before the addition of a solution of 1.5 g (12.9 mmol) of methyl 2-oxo-butyrate in 20 ml of THF. The reaction mixture is stirred for 10 minutes at −78° C., and then hydrolysed with a mixture of water/THF. The aqueous phase is decanted and then extracted 3 times with 50 ml of methyl acetate each time. The combined organic phases are dried, concentrated and purified by chromatography over silica (eluant:dichloromethane/acetone 95/5) to yield the expected product.

reactant | butyllithium | 11 mmol, 1.6M, 6.9 ml | C(CCC)[Li]
reactant | 2-fluoro-4-iodo-3-methylpyridine | 11 mmol, 2.6 g | FC1=NC=CC(=C1C)I | C6H5FIN
reactant | methyl 2-oxo-butyrate | 12.9 mmol, 1.5 g | O=C(C(=O)OC)CC | C5H8O3
reactant | water THF | O.C1CCOC1
solvent | hexane | CCCCCC | C6H14
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | Methyl 2-(2-Fluoro-3-methyl-4-pyridinyl)-2-hydroxybutanoate | FC1=NC=CC(=C1C)C(C(=O)OC)(CC)O | C11H14FNO3
